US05236952
A solution of 10 ml of boron tribromide in 50 ml of methylene chloride are added dropwise within 30 minutes at -10° to a solution of 1.0 g of 2-(3,4-dimethoxy-5-nitrophenyl)-4H-1-benzopyran-4-one in 100 ml of methylene chloride under an argon atmosphere, whereupon the mixture is stirred at room temperature overnight. After cooling to -20°, 20 ml of ethanol are added dropwise thereto. The mixture is then evaporated in a water-jet vacuum. The yellow residue obtained is extracted with water/ethyl acetate. The organic phase is washed with water, dried over sodium sulfate and evaporated. After recrystallization from ethanol/ethyl acetate, there is obtained 2-(3,4-dihydroxy-5-nitrophenyl)-4H-1-benzopyran-4-one in the form of yellow crystals of m.p. >240° (dec.).

reactant | boron tribromide | 10 ml | B(Br)(Br)Br | BBr3
reactant | 2-(3,4-dimethoxy-5-nitrophenyl)-4H-1-benzopyran-4-one | 1.0 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1OC2=C(C(C1)=O)C=CC=C2 | C17H13NO6
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dihydroxy-5-nitrophenyl)-4H-1-benzopyran-4-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1OC2=C(C(C1)=O)C=CC=C2 | C15H9NO6
